US06855710B2
(Z)-3-{1-[4-(2-aminoethyl)-phenylamino]-1-phenyl-methylidene}-5-nitro-2-indolinone-hydrochloride
Prepared analogously to Example 29a from (Z)-3-{1-[4-(2-tert.butoxycarbonylamino-ethyl)-phenylamino]-1-phenyl-methylidene}-5-nitro-2-indolinone and ethyl acetate/hydrogen chloride.

reactant | (Z)-3-{1-[4-(2-tert.butoxycarbonylamino-ethyl)-phenylamino]-1-phenyl-methylidene}-5-nitro-2-indolinone | C(C)(C)(C)OC(=O)NCCC1=CC=C(C=C1)N\C(\C1=CC=CC=C1)=C\1/C(NC2=CC=C(C=C12)[N+](=O)[O-])=O | C28H28N4O5
reactant | ethyl acetate hydrogen chloride | C(C)(=O)OCC.Cl
product | (Z)-3-{1-[4-(2-aminoethyl)-phenylamino]-1-phenyl-methylidene}-5-nitro-2-indolinone-hydrochloride | Cl.NCCC1=CC=C(C=C1)N\C(\C1=CC=CC=C1)=C\1/C(NC2=CC=C(C=C12)[N+](=O)[O-])=O | InChI=1S/C23H20N4O3.ClH/c24-13-12-15-6-8-17(9-7-15)25-22(16-4-2-1-3-5-16)21-19-14-18(27(29)30)10-11-20(19)26-23(21)28;/h1-11,14,25H,12-13,24H2,(H,26,28);1H/b22-21-;
